US09145375B2
2,4-Dichloro-5-nitrobenzoic Acid (1-2)
2,4-Dichlorobenzoic acid 1-1 (1.0 g, 5.34 mmol) was added in one portion to a stirred solution of concentrated nitric acid (0.26 mL, 5.75 mmol) in concentrated sulphuric acid (7 mL). After 3 hours at room temperature the solution was poured onto ice. The resulting white solid was isolated via filtration and washed with H2O (×3). The white solid was then stirred with 1% Na2CO3 (aq) (20 mL) for 1 h at room temperature. Remaining insoluble material was filtered off and the resulting clear filtrate was concentrated to a pale yellow solid. Recrystallisation from H2O afforded the sodium salt as pale yellow crystals. (Note: the other minor product, sodium 2,4-dichloro-3-nitrobenzoate, remained in solution). The yellow crystals of sodium 2,4-dichloro-5-nitrobenzoate was dissolved in a minimum amount of H2O and acidified by the slow addition of concentrated HCl until a white precipitate formed. After isolation by filtration and washing with H2O 2,4-dichloro-5-nitrobenzoic acid 1-2 was obtained as a white solid (0.91 g, 72%). 1H NMR (400 MHz, CDCl3) δ7.73 (s, 1H), 8.60 (s, 1H).

reactant | sodium 2,4-dichloro-3-nitrobenzoate | ClC1=C(C(=O)[O-])C=CC(=C1[N+](=O)[O-])Cl.[Na+]
reactant | sodium 2,4-dichloro-5-nitrobenzoate | ClC1=C(C(=O)[O-])C=C(C(=C1)Cl)[N+](=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
product | 2,4-Dichloro-5-nitrobenzoic Acid | 0.91 g, 72% | ClC1=C(C(=O)O)C=C(C(=C1)Cl)[N+](=O)[O-] | C7H3Cl2NO4
